US08895035B2
Production of 1-(2-carbamoyl-1,2-diisopropoxyiminoethyl)-1H-1,2,4-triazole (present compound No. I-73)
To 2 ml of a dimethyl sulfoxide solution containing 4.0 g (15.1 mmol) of 1-(2-cyano-1,2-diisopropoxyiminoethyl)-1H-1,2,4-triazole were added, with ice-cooling, 3.5 ml of hydrogen peroxide water and 2.30 g (16.6 mmol) of potassium carbonate, followed by stirring at room temperature for 10 hours. The resulting crystal was washed with water and isopropyl ether in this order, to obtain 3.28 g (yield: 77%) of a title compound.

reactant | 1-(2-cyano-1,2-diisopropoxyiminoethyl)-1H-1,2,4-triazole | 15.1 mmol, 4.0 g | C(#N)C(C(=NOC(C)C)N1N=CN=C1)=NOC(C)C | C11H16N6O2
reactant | hydrogen peroxide water | 3.5 ml | O.OO
reactant | potassium carbonate | 16.6 mmol, 2.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 1-(2-carbamoyl-1,2-diisopropoxyiminoethyl)-1H-1,2,4-triazole | 3.28 g, yield: 77% | C(N)(=O)C(C(=NOC(C)C)N1N=CN=C1)=NOC(C)C | C11H18N6O3
